US06423725B1
1-[1-(1-Phenylcycloheptyl)-4-piperidinyl]-3-[2-(2-pyrimidinylamino)ethyl]-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 1-(2-aminoethyl)-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride (37.81 mg, 0.0751 mmol, this was prepared according to the procedure of Preparation 18 and Example 64). 2-bromopyridine (14 mg, 0.0901 mol), K2CO3 (36 mg, 0.263 mmol), and DMF (1 ml) was stirred at 60° C. for 4 h. The mixture was diluted with CH2Cl2, washed with water, dried (Na2SO4), filtered, and concentrated. The residue was purified by preparative TLC (acetone/hexane:2/3) to give 3.3 mg (8.6%) of colorless oil.

reactant | 1-(2-aminoethyl)-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.NCCN1C(N(C2=C1C=CC=C2)C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)=O
reactant | 2-bromopyridine | 0.0901 mol, 14 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | K2CO3 | 0.263 mmol, 36 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[1-(1-Phenylcycloheptyl)-4-piperidinyl]-3-[2-(2-pyrimidinylamino)ethyl]-1,3-dihydro-2H-benzimidazol-2-one | 3.3 mg, 8.6% | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CCNC2=NC=CC=N2)=O | C31H38N6O
